********************************************************************************
**	Cree SiC Schottky Diode C4D Family Spice Model Library
**      v1.0_Beta
**	11/24/2014
********************************************************************************
**	Terms:
**	
**	By using this SPICE Model (a "Model") from Cree, Inc. ("Cree"), you on 
**	behalf of your organization (or you personally, if you are requesting the 
**	model for personal use) agree to the following conditions of its use:
**	
**	1. The Model, or any portion of the Model, is for your own use and may not 
**	be distributed outside your organization (or to any other person or company,
**	if you are acquiring the Model for personal use);
**	
**	2. You may use the Model only for the purpose of evaluating the performance 
**	of Cree products in proposed circuits;
**	
**	3. The Model is provided “AS IS”, and Cree disclaims any warranty either 
**	express or implied in connection with the Model, including but not limited 
**	to any warranty
**	
**	4. In no event, will Cree be liable for any damages arising from the use 
**	of the Model, regardless of the legal theory or any prior knowledge of Cree;
**	
**	5. Cree retains all copyrights and other intellectual property rights in 
**	the Model. 
**	
********************************************************************************
********************************************************************************
**	Notes:
**	1.  The model is designed to be accurate over the ranges presented in the
**	    corresponding datasheet typical characteristic curves.
**	2.  The model is valid over the 25C to 175C temperature range.
**	3.  Reverse leakage currents are modeled as a breakdown voltage at 250uA.
**	    No low current detail is provided.
**	4.  The surge response of the PiN structure is not included in this 
**          version.
**	5.  Recombination current is assumed to be zero.
**	6.  Currently, the model is electrical only. No thermal model is included.
**	7.  LT Spice users: please note that a LTSpice symbol library is also 
**	    available. Please refer to the file "Cree_C4D_CPW4_LTSPICE_Symbols.zip" 
**	    for further details.
**
********************************************************************************

********************************************************************************
**	Discrete Diodes
********************************************************************************
********************************************************************************
**	TO-220-2 package
********************************************************************************

.subckt C4D02120A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW41200S002B	
L_cathode	K	Case	6.5n		
.ends

.subckt C4D05120A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW41200S005B	
L_cathode	K	Case	6.5n		
.ends

.subckt C4D08120A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW41200S008B	
L_cathode	K	Case	6n		
.ends

.subckt C4D10120A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW41200S010B	
L_cathode	K	Case	6.5n
.ends

.subckt C4D15120A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW41200S015B	
L_cathode	K	Case	6.5n
.ends

.subckt C4D20120A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW41200S020B	
L_cathode	K	Case	6.5n
.ends


********************************************************************************
**	TO-252-2 package
********************************************************************************

.subckt C4D02120E A K Case
L_anode		A	AD	6n
D1		AD	Case	CPW41200S002B	
L_cathode	K	Case	6n		
.ends

.subckt C4D05120E A K Case
L_anode		A	AD	6n
D1		AD	Case	CPW41200S005B	
L_cathode	K	Case	6n		
.ends

.subckt C4D08120E A K Case
L_anode		A	AD	6n
D1		AD	Case	CPW41200S008B	
L_cathode	K	Case	6n		
.ends

.subckt C4D10120E A K Case
L_anode		A	AD	6n
D1		AD	Case	CPW41200S010B	
L_cathode	K	Case	6n		
.ends


********************************************************************************
**	TO-247-3 package
********************************************************************************

.subckt C4D10120D A1 A2 K Case
L_anode1	A1	AD1	6.5n
D1		AD1	Case	CPW41200S005B	
L_anode2	A2	AD2	6.5n
D2		AD2	Case	CPW41200S005B	
L_cathode	K	Case	6.5n		
.ends

.subckt C4D20120D A1 A2 K Case
L_anode1	A1	AD1	6.5n
D1		AD1	Case	CPW41200S010B	
L_anode2	A2	AD2	6.5n
D2		AD2	Case	CPW41200S010B	
L_cathode	K	Case	6.5n		
.ends

.subckt C4D30120D A1 A2 K Case
L_anode1	A1	AD1	6.5n
D1		AD1	Case	CPW41200S015B	
L_anode2	A2	AD2	6.5n
D2		AD2	Case	CPW41200S015B	
L_cathode	K	Case	6.5n		
.ends

.subckt C4D40120D A1 A2 K Case
L_anode1	A1	AD1	6.5n
D1		AD1	Case	CPW41200S020B	
L_anode2	A2	AD2	6.5n
D2		AD2	Case	CPW41200S020B	
L_cathode	K	Case	6.5n		
.ends


********************************************************************************

********************************************************************************
********************************************************************************


********************************************************************************
**	Die Models
********************************************************************************


.model CPW41200S002B			
+	d(		
+	level	=	1
+	Is	=	6.99983E-13
+	N	=	1.320735113
+	Eg	=	1.251495861
+	xti	=	0.1
+	Rs	=	0.207862748
+	trs1	=	0.005385655
+	trs2	=	2.95075E-05
+	Cjo	=	1.65706E-10
+	VJ	=	1.127534358
+	M	=	0.458351103
+	bv	=	1697
+	tbv1	=	0.000744794
+	tbv2	=	-7.92914E-06
+	tt	=	0
+	)		
		

.model CPW41200S005B
+	d(		
+	level	=	1
+	Is	=	5.90598E-14
+	N	=	1.178186661
+	Eg	=	1.043467419
+	xti	=	7.950669626
+	Rs	=	0.098142507
+	trs1	=	0.004297495
+	trs2	=	2.59929E-05
+	Cjo	=	4.05432E-10
+	VJ	=	1.114512
+	M	=	0.467955771
+	bv	=	1639.597225
+	tbv1	=	-0.00013199
+	tbv2	=	-4.71787E-06
+	tt	=	0
+	)		
		

.model CPW41200S008B
+	d(		
+	level	=	1
+	Is	=	1.92494E-14
+	N	=	1.11594604
+	Eg	=	1.035085337
+	xti	=	8.055126484
+	Rs	=	0.077114784
+	trs1	=	0.004446064
+	trs2	=	3.01628E-05
+	Cjo	=	5.56085E-10
+	VJ	=	1.441868153
+	M	=	0.487814696
+	bv	=	1566
+	tbv1	=	0.000611407
+	tbv2	=	-6.93579E-06
+	tt	=	0
+	)		


.model CPW41200S010B
+	d(		
+	level	=	1
+	Is	=	1.87454E-12
+	N	=	1.320015963
+	Eg	=	1.157943508
+	xti	=	4.026312737
+	Rs	=	0.050396905
+	trs1	=	0.005173515
+	trs2	=	2.80776E-05
+	Cjo	=	7.83471E-10
+	VJ	=	1.130882326
+	M	=	0.470404256
+	bv	=	1591.862027
+	tbv1	=	0.000157501
+	tbv2	=	-5.61728E-06
+	tt	=	0
+	)		


.model CPW41200S015B
+	d(		
+	level	=	1
+	Is	=	2.05199E-13
+	N	=	1.180245487
+	Eg	=	0.88047351
+	xti	=	12.65333425
+	Rs	=	0.042877267
+	trs1	=	0.004020008
+	trs2	=	2.59515E-05
+	Cjo	=	1.21052E-09
+	VJ	=	1.083744739
+	M	=	0.485774559
+	bv	=	1577.656188
+	tbv1	=	-4.43126E-05
+	tbv2	=	-7.15079E-06
+	tt	=	0
+	)		


.model CPW41200S020B
+	d(		
+	level	=	1
+	Is	=	3.07768E-10
+	N	=	1.583842411
+	Eg	=	1.1120996
+	xti	=	5.433552149
+	Rs	=	0.028252912
+	trs1	=	0.005793999
+	trs2	=	2.29807E-05
+	Cjo	=	1.54979E-09
+	VJ	=	1.102078536
+	M	=	0.472648604
+	bv	=	1515
+	tbv1	=	0.001073165
+	tbv2	=	-1.10208E-05
+	tt	=	0
+	)		
		
       



