* ------< SPICE Library MYLIB.LIB Created by SPICEMOD 2.4.3  09/18 >------
**********
*SRC=C3M65090;C3M65090;MOSFETs N;Power >100V;cree 900V 35A 0.035ohm 
*SYM=POWMOSN
.SUBCKT C3M65090 10 20 30
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  15.6M
RS  30  3  1.88M
RG  20  2  4.29
CGS  2  3  656P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  439P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
.MODEL DMOS NMOS (LEVEL=1 LAMBDA=2M VTO=2.1 KP=6.47)
.MODEL DCGD D (CJO=439P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=145N N=1.5 RS=0.116 BV=900 CJO=904P VJ=0.8 M=0.42 TT=12N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
