*******************************************************************************
**	Next generation MOSFET model INITIAL release
**	Version 1.0 Date: 11-4-2015
*******************************************************************************
**	This is a behavioral model file for the Wolfspeed C3M0065090 family
**	of 65 milliohm 900V SiC MOSFETs.
**	This library contains the following device subcircuits:
**		C3M0065090D TO-247 package
**		C3M0065090J 7 lead D2PAK package
**		CMP3-0900-0065B die
*******************************************************************************

*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied 
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

*******************************************************************************
**	Model Caveats:
*******************************************************************************
**	1.  The model forward IV fit range is VDS<=25V,ID<=125A VDS*ID<=1kW 
**			whichever is less.
**	2.	The model reverse IV fit range is VDS>=-6V and ID>=-50A
**	3.	This model is accurate over the 25C to 150C temperature range only.
**	4.  Body diode reverse recovery does not include diffusion capacitance effects
**			at this point.
**	5.  The model is intended for use in strong inversion only.
**			Accuracy is limited in weak and moderate inversion at this point.				 
*******************************************************************************

*******************************************************************************
**	C3M0065090D	Model
*******************************************************************************
.subckt C3M0065090D d g s
LD		d			d_die	3.77n
RD		d			d_die	100
RG		g			ga		6m
LG		ga 		g_die	15.7n
RGP		ga		g_die	500
RS		s			sa		3m
LS		sa		s_die	8.96n
RS10	sa		s_die	100
X1		d_die	g_die	s_die	CMP3-0900-0065B
.ends
*******************************************************************************
**	C3M0065090J Model
*******************************************************************************
.subckt C3M0065090J d g s1 s2 s3 s4 s5 s6
* Pin inductances and resistances
RS1		g			g1		2m
RS2		s1		s1a		2m
RS3		s2		s2a		2m
RS4		s3		s3a		2m
RS5		s4		s4a		2m
RS6		s5		s5a		2m
RS7		s6		s6a		2m
L1		g1		g2		7n
L2		s1a		s1b		7n
L3		s2a		s_c		7n
L4		s3a		s_c		7n
L5		s4a		s_c		7n
L6		s5a		s_c		7n
L7		s6a		s_c		7n
RP1   g1		g2		100
RP2   s1a		s1b		100
RP3   s2a		s_c		100
RP4   s3a		s_c		100
RP5   s4a		s_c		100
RP6   s5a		s_c		100
RP7   s6a		s_c		100
*	Bond wire resistances and inductances
RS10	g2		g3		3m
RS20	s1b		s1c		3m
RS30	s_c		s_c1	1m	
L10		g3		g_die	4.165n
L20		s1c		s_die	4.008n
L30		s_c1	s_die	0.884n
RP10	g3		g_die	100 
RP20	s1c		s_die	100 
RP30	s_c1	s_die	100
X1		d			g_die	s_die	CMP3-0900-0065B
.ends
*******************************************************************************
**	Die model
*******************************************************************************
.subckt CMP3-0900-0065B d g s
RG		g		g1	4.7
R1 		g1 	s		1e9
R2		d1	0		1e9
G1 		d 	s 	value={f_id(f_hyp(v(d,s),1e-6),v(g1,s))} 
G2	 	s 	d1 	value={f_q3IV(f_hyp(v(s,d1),1e-6),v(g1,s),temp)}
G3		d		d1 	value={f_q3Rs(f_hyp(v(g1,s),1e-6),temp)*v(d,d1)}	
XCGD 	d 	g1 	cgd
CGS		g1	s		800p
XCDS 	d 	s 	cds
.ends 
*******************************************************************************

*******************************************************************************
**	This is a list of parameters and functions for the mosfet model
*******************************************************************************
.param ka_a = 	0.1
.param ka_b = 	8.9
.param ka_c = 	1.2
.param ka_d = 	0.9
.param ka_e0 = 	3.534611773
.param ka_e1 = 	-0.018431359
.param ka_e2 = 	4.16935E-05
.param ka_f0 = 	2.17302163
.param ka_f1 = 	0.003560165
.param ka_f2 = 	0.000180377
.param ka_g =	2.4
.param ka_h0 = 	105.8476465
.param ka_h1 = 	-0.576822332
.param ka_h2 = 	0.001620323
	
.param kb_a0 = 	3.467946597
.param kb_a1 = 	0.000325911
.param kb_a2 = 	0.000334505
.param kb_b0 = 	0.171793387
.param kb_b1 = 	0.000245974
.param kb_b2 = 	4.32387E-06
.param kb_c = 	0.22
	
.param kc_0 = 	0.279605263
.param kc_1 = 	0.001921053
	
.param kd = 	0.03 ; originally 0.03

.func f_ka_e(x) {f_hyp(ka_e0+ka_e1*(x-25)+ka_e2*(x-25)**2,1e-3)}
.func f_ka_f(x) {f_hyp(ka_f0+ka_f1*(x-25)+ka_f2*(x-25)**2,1e-3)}  
.func f_ka_h(x) {f_hyp(ka_h0+ka_h1*(x-25)+ka_h2*(x-25)**2,1e-3)}

.func f_kb_a(x) {f_hyp(kb_a0+kb_a1*(x-25)+kb_a2*(x-25)**2,1e-3)}
.func f_kb_b(x) {f_hyp(kb_b0+kb_b1*(x-25)+kb_b2*(x-25)**2,1e-3)}

.func f_kc(x) {f_hyp(kc_0+kc_1*(x-25),1e-3)}

.func f_ka(vgs) {(f_ka_h(temp)*vgs**(f_ka_e(temp)+ka_b+ka_a))/((vgs**(2*ka_c)+EXP(2*ka_c*ka_d))**(ka_b/(2*ka_c))*(vgs**(2*f_ka_f(temp))+EXP(2*f_ka_f(temp)*ka_g))**(f_ka_e(temp)/(2*f_ka_f(temp))))}  
.func f_kb(vgs) {f_kb_a(temp)*(1-TANH(f_kb_b(temp)*(vgs)))/2+kb_c}
.func f_id(vds,vgs) {f_ka(vgs)*(tanh(vds*f_kb(vgs))+tanh(vds*f_kb(vgs)*f_kc(temp)))/2*(1+kd*f_sabs(vds))}
.func f_hyp(x,a) {(x+sqrt(x**2+4*a**2))/2}
.func f_sabs(x) {x*tanh(x*1e3)}
.func f_id2(vds,vgs,k_a,k_b,k_c) {f_limit(f_id(vds,vgs),p_a,p_b,p_c)}


******************************************************************************
**	3rd Quadrant I-V
******************************************************************************
.param kaa_a0 =	-20.79725886
.param kaa_a1 =	-0.007083977
.param kaa_b0 =	0.155922699 
.param kaa_b1 =	-3.18916E-06
.param kaa_c0 =	-1.918492783
.param kaa_c1 =	-0.019611243
.param kaa_d0 =	4.383748921 
.param kaa_d1 =	-0.00762168 
	                          
.param kbb_a0 =	934.7415858 
.param kbb_a1 =	26.4990032  
.param kbb_b0 =	0.046110915 
.param kbb_b1 =	0.000380387 
.param kbb_c0 =	-55.36528096
.param kbb_c1 =	0.122126965 
.param kbb_d0 =	0.3561459   
.param kbb_d1 =	0.002633729 
	                          
.param kcc_a0 =	-0.00013385 
.param kcc_a1 =	3.79226E-07 
.param kcc_b0 =	0.000907603 
.param kcc_b1 =	5.10484E-06 
.param kcc_c0 =	0.051757139 
.param kcc_c1 =	-9.75188E-05

**	Temperature dependent functions
.func f_kaa_a(T)	{kaa_a0+kaa_a1*T}
.func f_kaa_b(T)	{kaa_b0+kaa_b1*T}
.func f_kaa_c(T)	{kaa_c0+kaa_c1*T}
.func f_kaa_d(T)	{kaa_d0+kaa_d1*T}

.func f_kbb_a(T)	{kbb_a0+kbb_a1*T}
.func f_kbb_b(T)	{kbb_b0+kbb_b1*T}
.func f_kbb_c(T)	{kbb_c0+kbb_c1*T}
.func f_kbb_d(T)	{kbb_d0+kbb_d1*T}

.func f_kcc_a(T)	{kcc_a0+kcc_a1*T}
.func f_kcc_b(T)	{kcc_b0+kcc_b1*T}
.func f_kcc_c(T)	{kcc_c0+kcc_c1*T}

**	Voltage dependent functions
.func f_kaa(x,T)	{f_kaa_a(T)*(1-tanh(f_kaa_b(T)*(x-f_kaa_c(T))))/2+f_kaa_d(T)}  
.func f_kbb(x,T)	{f_kbb_a(T)*(1-tanh(f_kbb_b(T)*(x-f_kbb_c(T))))/2+f_kbb_d(T)}
.func f_kcc(x,T)	{f_kcc_a(T)*x**2+f_kcc_b(T)*x+f_kcc_c(T)}

**	Final I-V
.func f_q3IV(x,y,T) {x**f_kbb(y,T)*exp(f_kaa(y,T))}
.func f_q3Rs(x,T)		{1/f_kcc(x,T)}

*******************************************************************************
**	MOSFET Capacitors
*******************************************************************************
********************************************************************************
*****	Voltage controlled capacitors
********************************************************************************
.subckt cgd high low
.func f_hyp1(x,a,b) {((x-a)+sqrt((x-a)**2+4*b**2))/2+a}
.param ka_gd = {207.0376962*1}
.param kb_gd = 2.499945875
.param kc_gd = {0.765412072*1}
.param kd_gd = 0.002322968
.param k_lim = -1.6
F1 high low value={-i(e1)*(ka_gd/(1+f_hyp1(v(high,low),k_lim,0.1)/kb_gd)**kc_gd+kd_gd*f_hyp1(v(high,low),k_lim,0.1))}
C1 nx 0 1e-12
E1 nx 0 high low 1
.ends

.subckt cds high low
.param Cjo = 1017.240153
.param Vt  = 11.29984365
.param M   = 0.942636575
.param Co  = 40         
F1 high low value={-i(e1)*(Cjo/(1+v(high,low)/Vt)**M+Co)}
C1 nx 0 1e-12
E1 nx 0 high low 1
C2 high low 40p
.ends
