***********************************************************
****	Cree SiC MOSFET Spice Library - PRELIMINARY RELEASE
***********************************************************
****	Rev. 0 - Inital Release
***********************************************************

***********************************************************
****	PLEASE READ THE FOLLOWING:
****	This model is preliminary and subject to change without notice.
****	The model is provided on an "as is" basis.
****	There are no warranties, expressed or implied, on the fit of this model.
****	This model is not intended to take the place of laboratory testing.
***********************************************************
****	NOTES:  Model Limitations
****	1.  This model is valid for the temperature range of 25C to 125C.
****	2.  The model was extracted from the CMF10120 SiC MOSFET and
****	    scaled up for the CMF20120.
****	3.  The model provides a reasonable approximation for the 
****	    MOSFET in the third quadrant.  However, the body diode threshold
****	    voltage was modeled with VGS = -5V and assumes this is fixed
****	    for all values of VGS.  However, the body diode threshold voltage 
****	    might change slightly over the range of -5V <= VGS <= 0V.  This is
****	    not modeled.
****	4.  No attempt has been made to model noise characteristics. 			
*********************************************************** 

*****************************************
****	CMF10120 SiC MOSFET Model
*****************************************
.subckt CMF10120 d g s
.param af1=1
xgmos	d1 g1 s1 gmos params: af=af1
Ls1 s   s1	7e-9
Rs2 s	 s1    100	
Rg1 g1	 g2	{14/af1}
Lg1 g   g2	7e-9
rdrain d d1 {0.08/af1} tc1=0.000835209 tc2=2.94329E-05
XCGD d1 g1 cgdmos params: af=af1
CGS g1 s1 {1000p*af1}
CDS d1 s1 {30.4p*af1}
D1 s1 d bodydiode
.ends CMF10120
*****************************************

*****************************************
****	CMF20120 SiC MOSFET Model
*****************************************
.subckt CMF20120 d g s
.param af1=2
xgmos	d1 g1 s1 gmos params: af=af1
Ls1 s   s1	7e-9
Rs2 s	 s1    100	
Rg1 g1	 g2	{(14/af1)-2}
Lg1 g   g2	7e-9			
rdrain d d1 {(0.08+0.01)/af1} tc1=0.000835209 tc2=2.94329E-05
XCGD d1 g1 cgdmos params: af=af1
CGS g1 s1 {1000p*af1}
CDS d1 s1 {30.4p*af1}
D1 s1 d bodydiode
D2 s1 d bodydiode	
.ends CMF20120
*****************************************

*****************************************
*****	Drain Current Generator Subcircuit
*****************************************
.subckt gmos d1 g2 s1
.param p1 = {9.056*af}	; transconductance parameter
.param p2 = {6.062-0.015*(temp-27)} ; Vthreshold
.param p3 = 17	; subthreshold slope
.param p4 = 0.026	; thermal voltage
.param p5 = 2.105	; law exponent (2 = square law)
.param p6 = 1.287	; triode-saturation transition parameter 2
.param p7 = 0.6855	; triode effect 0.5
.param p8 = 0.001	; channel length modulation parameter
.param p9 = {2*p3*p4}
.param p10 = {p9*p4*p1}
.param p11 = -10	; Lower VGS limit
.param p12 = 30	; Upper VGS limit 
R100 g1 s1	1e9
E100 g1 s1 	value = {limit(V(g2,s1),p11,p12)} 
G1 d1 s1 value =	{
+	if(V(d1,s1)<0,
+		-p10*((ln(1+exp((v(g1,s1)-p2)/p9)))**p5)
+		*(1+p8*v(s1,d1))
+		,
+		p10*((ln(1+exp((v(g1,s1)-p2)/p9)))**p5)
+		*(1+p8*v(d1,s1))
+		)
+			}
G2 d1 s1 value =	{
+	if(V(d1,s1)<0,
+		p10*((ln(1+exp((v(g1,s1)-p2-p6*(v(s1,d1))**p7)/p9)))**p5)
+		*(1+p8*v(s1,d1))
+		,
+		-p10*((ln(1+exp((v(g1,s1)-p2-p6*(v(d1,s1))**p7)/p9)))**p5)
+		*(1+p8*v(d1,s1))
+		)
+			}
.ends gmos
****************************************

****************************************
*****	Body Diode
****************************************
.model bodydiode d(is=1e-42 cjo=783.3p bv=1500 m=0.676 EG=3.26 vj=3.82 n=1.1
+	rs=0.12 tt=15n ibv=1e-25 level=1)
****************************************

****************************************
*****	CGD Subcircuit
****************************************
.subckt cgdmos d2 g
.param k1=585.9p	; Capacitance at zero volts
.param k2=0.5		; m in depletion capacitance equation
.param ka=18.096	; Capacitance discontinuity fit parameter
.param kb=0.2678	; Capacitance discontinuity fit parameter
.param kc=7.5277	; Capacitance discontinuity fit parameter
G11 g d1 value = 	{
+		af*k1*(
+		(1+(limit(v(d1,g),0,500))*(1+ka*(1+TANH(kb*V(d1,g)-kc))/2))**-k2
+		)*ddt(v(g,d1))
+			}
R1 d1 d2 1e-3
C1 g d1 {1p*af}
.end cgdmos
***************************************                                  